US09290476B2
N-Methoxy-N,1-dimethyl-1H-imidazole-5-carboxamide
Triethylamine (5.51 mL, 39.646 mmol) was added slowly to a mixture of commercially available 1-methyl-1H-imidazole-5-carboxylic acid (2 g, 15.859 mmol), N,O-dimethylhydroxylamine hydrochloride (1.55 g, 15.859 mmol), and EDCI (3.65 g, 19.03 mmol) in CH2Cl2 (10 mL). The mixture was stirred at room temperature for 72 hours then quenched with saturated aqueous NaHCO3. Water (50 mL) was added followed by additional CH2Cl2. The mixture was stirred for 10 minutes and layers were separated. The CH2Cl2 layer was dried over Na2SO4, then filtered. The solvent was removed under reduced pressure and the residual oil chromatographed (CH2Cl2/EtOAc) to provide the product as a solid.

reactant | Triethylamine | 39.646 mmol, 5.51 mL | C(C)N(CC)CC | C6H15N
reactant | 1-methyl-1H-imidazole-5-carboxylic acid | 15.859 mmol, 2 g | CN1C=NC=C1C(=O)O | C5H6N2O2
reactant | N,O-dimethylhydroxylamine hydrochloride | 15.859 mmol, 1.55 g | Cl.CNOC
reactant | EDCI | 19.03 mmol, 3.65 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-Methoxy-N,1-dimethyl-1H-imidazole-5-carboxamide | CON(C(=O)C1=CN=CN1C)C | C7H11N3O2
